US05691349
Using the method described in Example 48 for the preparation of 4-cyanophenol allyl ether, 4-iodophenol was reacted with isoamylbromide in the presence of potassium carbonate to give 4-iodo-isoamyloxyphenol as an oil, NMR(CDCl3): 0.95(6H,d), 1.66(2H,q), 1.68-1.92(1H,m), 3.93(2H,t), 6.63-6.72(2H,d), 7.49-7.59(2H,d); m/z290(M).

reactant | 4-cyanophenol allyl ether | C(C=C)OC1=CC=C(C=C1)C#N | C10H9NO
reactant | 4-iodophenol | IC1=CC=C(C=C1)O | C6H5IO
reactant | isoamylbromide | C(CC(C)C)Br | C5H11Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-iodo-isoamyloxyphenol | IC1=CC(=C(C=C1)O)OCCC(C)C | C11H15IO2
